US06538004B2
4-(3-bromo-4-fluorophenyl)-1-(2-pyridinyl)-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
5-Amino-1-(2-pyridyl)-1,2-dihydropyrazol-3-one (0.26 g, 1.5 mmol), prepared as described in (Weisberger A., Porter H. D., J. Am. Chem. Soc., (1944) 66, 1849), 3bromo-4-fluorobenzaldehyde (0.3 g, 1.5 mmol), and 1,3-cyclopentanedione (0.147 g, 1.5 mmol) in ethyl alcohol (3 mL) were heated at 80° C. for 2 days in a sealed tube. The reaction mixture was cooled and the resulting precipitate was filtered off to provide 0.2 g of the title compound as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ 2.32 (m, 2H), 2.8 (m, 2H), 4.82 (s, 1H), 7.22 (m, 3H), 7.48 (dd, 1H), 7.55 (dd, 1H), 7.92 (t, 1H), 8.41 (m, 1H), 10.42 (s, 1H), 10.55 (bs, 1H); MS (ESI−) m/z 439 (M−H)−; Anal. calcd for C2H14N4BrFO2.0.25H2O: C, 53.89;H, 3.28; N, 12.57. Found: C, 53.76;H, 3.01; N, 13.22.

reactant | 5-Amino-1-(2-pyridyl)-1,2-dihydropyrazol-3-one | 1.5 mmol, 0.26 g | NC1=CC(NN1C1=NC=CC=C1)=O | C8H8N4O
reactant | 3bromo-4-fluorobenzaldehyde | 1.5 mmol, 0.3 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 1,3-cyclopentanedione | 1.5 mmol, 0.147 g | C1(CC(CC1)=O)=O | C5H6O2
solvent | ethyl alcohol | 3 mL | C(C)O | C2H6O
product | 4-(3-bromo-4-fluorophenyl)-1-(2-pyridinyl)-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.2 g | BrC=1C=C(C=CC1F)C1C2=C(NC3=C1C(NN3C3=NC=CC=C3)=O)CCC2=O | C20H14BrFN4O2
